* TL494.asc
*              1    2   3   4  5  6   7  8  9  10 11 12  13  14  15   16
.subckt tl494 1IN+ 1IN- FB DTC CT RT GND C1 E1 E2 C2 VCC OC REF 2IN- 2IN+
XEA1 1IN+ 1IN- VCC 0 N015 level.2 Avol=1e5 GBW=1Meg Slew=10k ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=1Meg
XEA2 2IN+ 2IN- VCC 0 N016 level.2 Avol=1e5 GBW=1Meg Slew=10k ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=1Meg
V§DT N007 DTC 0.12
V2 N014 CT 0.7
A1 0 N005 0 N011 0 0 N009 0 OR vhigh=4.8 td=50n
A2 0 N006 0 N009 0 N002 0 0 OR vhigh=4.8 td=50n
A3 0 N010 0 N009 0 N012 0 0 OR vhigh=4.8 td=50n
A4 0 OC` 0 N008 0 0 N006 0 AND vhigh=4.8 td=50n
A5 0 N004 0 OC` 0 0 N010 0 AND vhigh=4.8 td=50n
E1 OC` 0 OC 0 1
A6 N004 0 N009 N001 0 N004 N008 0 DFLOP vhigh=4.8 vlow=0.2 td=50n
I2 FB 0 0.7m
R1 N003 N002 470
R2 N013 N012 470
R4 N003 E1 2k7
R5 N013 E2 2k7
Q3 RT RT Ref 0 PNP
Q4 CT RT Ref 0 PNP
S1 0 CT ctl 0 SW off
A10 CT 0 0 0 0 0 ctl 0 SCHMITT vhigh=1 vlow=-1 vt=1.5 vh=1.495 td=10n tripdt=1n
R3 VCC Ref 270
R6 N001 0 470
C1 N001 VCC 1n
XU1 N007 CT VCC 0 N005 level.2 Avol=1G GBW=1G Slew=1G ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 FB N014 VCC 0 N011 level.2 Avol=1G GBW=1G Slew=1G ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
Q1 C1 N1010 E1 0 NPN
Q2 C2 N1011 E2 0 NPN
E1000 N1000 0 N003 0 2.1875
E1001 N1001 0 N013 0 2.1875
R1000 N1000 N1010 100
R1001 N1001 N1011 100
D3 0 Ref DZ
D1 N016 FB D
D2 N015 FB D
D4 N001 VCC D
D5 0 N001 D
.model D D
.model NPN NPN
.model PNP PNP
.model sw sw(ron=1)
.lib ltc.lib
.model dz d(vrev=5)
.lib UniversalOpamps2.sub
.ends tl494
